US06608203B2
6-Benzyloxy-2-(3,5-dimethylisoxazole-4-sulfonyl)-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline
3,5-Dimethylisoxazole-4-sulfonyl chloride (0.034 g, 0.18 mmol) was added to a solution of 6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline (0.075 g, 0.18 mmol) and Et3N (0.037 ml, 0.26 mmol) in anhydrous THF (10 ml) at rt under N2. The resulting suspension was stirred at rt for 21 hr, then evaporated in vacuo to a residue that was suspended in a mixture of saturated NaHCO3 solution (4 ml) and H2O (4 ml). This was extracted with CHCl3 (4×5 ml) and the combined extracts were dried over MgSO4, then concentrated in vacuo to give 0.110 g of yellow oil. Purification by flash chromatography, eluting with EtOAc:MeOH (1:1) gave 0.078 g (76% yield) of white solid.

reactant | 3,5-Dimethylisoxazole-4-sulfonyl chloride | 0.18 mmol, 0.034 g | CC1=NOC(=C1S(=O)(=O)Cl)C | C5H6ClNO3S
reactant | 6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline | 0.18 mmol, 0.075 g | C(C1=CC=CC=C1)OC=1C=C2CCNC(C2=CC1)C1=CC=C(C=C1)OCCN1CCCC1 | C28H32N2O2
reactant | Et3N | 0.26 mmol, 0.037 ml | CCN(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-Benzyloxy-2-(3,5-dimethylisoxazole-4-sulfonyl)-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline | 0.110 g | C(C1=CC=CC=C1)OC=1C=C2CCN(C(C2=CC1)C1=CC=C(C=C1)OCCN1CCCC1)S(=O)(=O)C=1C(=NOC1C)C | C33H37N3O5S
